US03950537
To 20 g. (0.12 mole) of 2,4-dimethylphenylisothiocyanate in 30 ml. of acetone was added dropwise 10 g. (0.16 mole) of ethanolamine in 20 ml. acetone. The solution was refluxed 1 hour then cooled to 4° C., to give crystals which were filtered off, washed with cold ethanol and dried to afford 1-(2,4-dimethylphenyl)-3-(2-hydroxyethyl)-thiourea, 16.8 g. (54% yield) of white crystals m.p. 137.5°-139° C.

reactant | 2,4-dimethylphenylisothiocyanate | 0.12 mole | CC1=C(C=CC(=C1)C)N=C=S | C9H9NS
reactant | ethanolamine | 0.16 mole | C(O)CN | C2H7NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2,4-dimethylphenyl)-3-(2-hydroxyethyl)-thiourea | CC1=C(C=CC(=C1)C)NC(=S)NCCO | C11H16N2OS
